*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/C0G(-55to125[deg])/1.80e-03[uF]/630[V]
* Murata P/N :GCM21B5C2J182GX0A
* Property : C = 1.80e-03[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[kHz]-1000[MHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM21B5C2J182GX0A Port1 Port2
C01 Port1 N01 1.80e-09
R01 Port1 N01 1.00e+11
L02 N01 N02 5.39e-10
R03 N02 N03 2.48e-03
L04 N03 N04 1.35e-10
R04 N03 N04 2.59e-02
C05 N04 N05 1.07e-08
L05 N04 N05 2.84e-04
R05 N04 N05 1.35e+02
C06 N05 N06 4.48e-09
L06 N05 N06 5.76e-11
R06 N05 N06 1.17e+00
C07 N06 N07 2.70e-09
L07 N06 N07 3.97e-11
R07 N06 N07 1.03e+00
C08 N07 N08 3.78e-09
L08 N07 N08 1.43e-11
R08 N07 N08 4.57e-01
C09 N08 Port2 2.03e-09
L09 N08 Port2 1.64e-11
R09 N08 Port2 6.92e-01
.ENDS GCM21B5C2J182GX0A
